US06903215B2
To a round bottom flask fitted with a Dean-Stark trap was added a mixture of 19.54 g (116 mmol) of 4-fluoro-2-methoxyacetophenone, 15.29 mL (174 mmol) of methyl cyanoacetate, 1.42 mL (13 mmol) of benzylamine, and 6.6 mL of acetic acid in 170 mL of toluene and the mixture was warmed to reflux. The reaction was monitored by TLC (EtOAc-hexanes, 2:8). After 18 hours, the reaction was then cooled and concentrated in vacuo to afford a dark, orange oil. The crude oil was distilled at 130° C. under vacuum (Kugelrohr) to remove unreacted 4-fluoro-2-methoxyactophenone. The crude product was then passed through a pad of silica gel using a 10% EtOAc in a 1:1 mixture of dichloromethane in hexanes to afford 27.64 g (95%) of 2-cyano-3-(4-fluoro-2-methoxyphenyl)but-2-enoic acid methyl ester as a light orange oil which was a mixture of geometric isomers.

reactant | 4-fluoro-2-methoxyacetophenone | 116 mmol, 19.54 g | CC(=O)C1=C(C=C(C=C1)F)OC | C9H9FO2
reactant | methyl cyanoacetate | 174 mmol, 15.29 mL | C(#N)CC(=O)OC | C4H5NO2
reactant | benzylamine | 13 mmol, 1.42 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | acetic acid | 6.6 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 170 mL | C1(=CC=CC=C1)C | C7H8
product | 2-cyano-3-(4-fluoro-2-methoxyphenyl)but-2-enoic acid methyl ester | 27.64 g, 95% | COC(C(=C(C)C1=C(C=C(C=C1)F)OC)C#N)=O | C13H12FNO3
